US07767854B2
To a mixture of 5-butylsulfonyl-1-phenyl-1H-tetrazole (3.54 g) and anhydrous ethylene glycol dimethyl ether (60 ml) at −60° C. was added 0.5 M hexamethyldisilazane potassium solution (in toluene, 26.6 ml), and the mixture was stirred for 20 minutes. Under the same condition, a solution of t-butyl cis-4-formylcyclohexylcarbamate (3.02 g) in anhydrous ethylene glycol dimethyl ether (15 ml) was added to the mixture. And the reaction mixture was gradually warmed to 25° C. and stirred overnight. To the reaction mixture was added water, and the mixture was stirred for 1 hour, then extracted with diethyl ether, and the organic layer was washed with brine, dried over sodium sulfate, and then the solvent was removed in vacuo. The residue was purified by a silica gel chromatography (eluent: gradient from 100% hexane/0% ethyl acetate to 0% hexane/100% ethyl acetate) to give 2.38 g of t-butyl cis-{4-[(E)-1-pentenyl]cyclohexyl}carbamate.

reactant | 5-butylsulfonyl-1-phenyl-1H-tetrazole | 3.54 g | C(CCC)S(=O)(=O)C1=NN=NN1C1=CC=CC=C1 | C11H14N4O2S
reactant | hexamethyldisilazane potassium | 0.5 M, 26.6 ml | [K].C[Si](N[Si](C)(C)C)(C)C
reactant | t-butyl cis-4-formylcyclohexylcarbamate | 3.02 g | C(=O)[C@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C12H21NO3
reactant | water | O | H2O
solvent | ethylene glycol dimethyl ether | 15 ml | COCCOC | C4H10O2
solvent | ethylene glycol dimethyl ether | 60 ml | COCCOC | C4H10O2
product | t-butyl cis-{4-[(E)-1-pentenyl]cyclohexyl}carbamate | 2.38 g | C(=C\CCC)/[C@H]1CC[C@H](CC1)NC(OC(C)(C)C)=O | C16H29NO2
